US04022797
N-Cyano-N'-methyl-N"-[2-(2-(2-pyrimidyl)ethyl)thioethyl]guanidine
By the procedure of Example 17 using 2-(2-chloroethyl)pyrimidine, prepared by treating 2-(2-hydroxyethyl)pyrimidine with thionyl chloride, as the starting material, 2-[2-(2-aminoethyl)thioethyl]pyrimidine is prepared, which when treated with N-cyano-N',S-dimethylisothiourea by the procedure of Example 3(a) gives the title compound.

reactant | 2-(2-chloroethyl)pyrimidine | ClCCC1=NC=CC=N1 | C6H7ClN2
reactant | 2-(2-hydroxyethyl)pyrimidine | OCCC1=NC=CC=N1 | C6H8N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[2-(2-aminoethyl)thioethyl]pyrimidine | NCCSCCC1=NC=CC=N1 | C8H13N3S
reactant | N-cyano-N',S-dimethylisothiourea | C(#N)NC(SC)=NC | C4H7N3S
product | N-Cyano-N'-methyl-N"-[2-(2-(2-pyrimidyl)ethyl)thioethyl]guanidine | C(#N)NC(=NCCSCCC1=NC=CC=N1)NC | C11H16N6S
